US07576103B2
A solution of 6-phenylsulfanyl-3,4-dihydro-2H-naphthalen-1-one (8.05 g, 31.65 mmol) in MeOH/MeCN (50 mL of each) was stirred at room temperature. OXONE™ (potassium peroxymonosulfate, 77.83 g, 126.60 mmol) was dissolved in 50 mL of water and was added to the stirring reaction. The reaction mixture was stirred for 15 hours, and then evaporated under reduced pressure. The resulting aqueous residue was diluted with 500 mL of water and extracted three times with 300 mL of EtOAc. The combined extracts were washed with water, saturated brine, and dried over MgSO4. The solvent was removed under reduced pressure to yield an oil which was eluted through silica gel with hexane followed by chloroform. Removal of solvent under reduced pressure afforded 6.55 g (22.87 mmol, 72.27%) of 6-benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one as a white solid, which was recrystallized from EtO2/hexanes. MS: 287 (M+H)+.

reactant | 6-phenylsulfanyl-3,4-dihydro-2H-naphthalen-1-one | 31.65 mmol, 8.05 g | C1(=CC=CC=C1)SC=1C=C2CCCC(C2=CC1)=O | C16H14OS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | MeOH MeCN | CO.CC#N
product | 6-benzenesulfonyl-3,4-dihydro-2H-naphthalen-1-one | 22.87 mmol, 6.55 g, 72.27% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)=O | C16H14O3S
